US04122191
To a mixture of 27.8 g (0.1 mole) of 4-decyloxybenzoic acid and 300 ml of anhydrous ether stirred at room temperature is slowly added with stirring 100 ml of 2 M methyllithium in ether. The reaction mixture is stirred at room temperature for 2 hours then poured into 1 liter of a saturated ammonium chloride solution. The organic layer is separated, washed with 5% sodium bicarbonate and brine and evaporated to dryness to give a low melting solid which is recrystallized from hexane to give methyl 1-(4-decyloxy)phenyl ketone, M.P. 38°-39° C.

reactant | 4-decyloxybenzoic acid | 0.1 mole, 27.8 g | C(CCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C17H26O3
reactant | methyllithium | 2 M, 100 ml | C[Li]
reactant | ammonium chloride | 1 liter | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
product | methyl 1-(4-decyloxy)phenyl ketone | CCCC(CCCCCC)OC1(CC=CC=C1)C(=O)C | C18H30O2
